US05559224
With cooling on an ice bath, to 596 mg of 2-(2-aminoethoxy)acetic acid dissolved in 10 ml of water was added an ether solution of 883 mg sodium bicarbonate and 1.29 g p-nitrobenzyloxycarbonyl chloride in dropwise manner. After stirring the reaction solution for 17 hours at room temperature, the resulting aqueous layer was collected, adjusted to acidic with concentrated hydrochloric acid and extracted with ethyl acetate, and the resulting organic layer was washed with water and dried over sodium sulfate, followed by evaporation of the solvent under a reduced pressure to yield 1.48 g of 2-(2-(p-nitrobenzyloxycarbonylamino)ethoxy)acetic acid.

reactant | 2-(2-aminoethoxy)acetic acid | 596 mg | NCCOCC(=O)O | C4H9NO3
reactant | ether | CCOCC | C4H10O
reactant | sodium bicarbonate | 883 mg | C([O-])(O)=O.[Na+]
reactant | p-nitrobenzyloxycarbonyl chloride | 1.29 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
solvent | water | 10 ml | O | H2O
product | 2-(2-(p-nitrobenzyloxycarbonylamino)ethoxy)acetic acid | 1.48 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCOCC(=O)O)C=C1 | C12H14N2O7
